US05650428
The procedure described in Example 177 was repeated, except that (RS)-2-(4-chlorobenzenesulfonylamino)-4-phenylbutanoic acid (270.3 mg) and methyl 4-aminophenylpropionate hydrochloride (167.8 mg) were condensed in chloroform (10 ml) in the presence of triethylamine (360 μl) and 1-methyl-2-chloropyridinium iodide (243.2 mg), and then the resulting crude product was purified by column chromatography (silica gel 50 g, hexane/ethyl acetate=2/1) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)-4-phenylbutanamide (43.2 mg) as a colorless oil.

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-4-phenylbutanoic acid | 270.3 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CCC1=CC=CC=C1 | C16H16ClNO4S
reactant | methyl 4-aminophenylpropionate hydrochloride | 167.8 mg | Cl.NC1=CC=C(C=C1)C(C(=O)OC)C
reactant | triethylamine | 360 μl | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-2-chloropyridinium iodide | 243.2 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(2-methoxycarbonylethyl)phenyl)-4-phenylbutanamide | 43.2 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CCC(=O)OC)CCC1=CC=CC=C1 | C26H27ClN2O5S
